US04760089
(ii) Preparation of 3-(p-methoxybenzyloxy)benzaldehyde
m-Hydroxybenzaldehyde (24.1 g., 0.197 mole) was dissolved in 150 ml. of dimethylformamide. To this solution were added p-methoxybenzyl chloride (9.5 g., 0.197 mole) and 50% sodium hydride (in mineral oil) in small portions at room temperature. The reaction was stirred under an argon atmosphere for 2 hours, then allowed to stand overnight. The reaction mixture was poured into a large volume of ice water. The product 3-(p-methoxybenzyloxy)benzaldehyde was collected and recrystallized from ethanol; 42.9 g., mp 78° C.

reactant | p-methoxybenzyl chloride | 0.197 mole, 9.5 g | COC1=CC=C(CCl)C=C1 | C8H9ClO
reactant | sodium hydride | [H-].[Na+]
reactant | dimethylformamide | CN(C=O)C | C3H7NO
product | 3-(p-methoxybenzyloxy)benzaldehyde | COC1=CC=C(COC=2C=C(C=O)C=CC2)C=C1 | C15H14O3
